US06956049B1
2-Bromo-1,3-thiazole (2.0 g, 13 mmol) and CuI (316 mg, 1.6 mmol) were combined in DME (25 mL) and argon gas was bubbled through the suspension for several minutes to deoxygenate the mixture. Triethylamine (5.8 mL, 42 mmol) and PdCl2(PPh3)2 (580 mg, 0.83 mmol) were added and 1-ethynyl-2-fluorobenzene (1.0 g, 8.3 mmol) was added dropwise. The reaction was heated under reflux for 4 h at which time GC/MS showed the reaction was complete. The mixture was filtered through Celite™, and the filter pad was washed thoroughly with ethyl acetate. The combined filtrates were concentrated in vacuo. The residue was dissolved in ethyl acetate (200 mL) and washed with water (200 mL), brine (200 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography eluting with hexane then 98:2 hexane:ethyl acetate to afford 2-[(2-fluorophenyl)ethynyl]-1,3-thiazole (700 mg, 41% yield) as a yellow oil that was impure by 1H NMR analysis. The compound (140 mg) was dissolved in DMSO and purified by preparative HPLC with a 30 min gradient from 50:50 water:acetonitrile to 100% acetonitrile to afford 2-[(2-fluorophenyl)ethynyl]-1,3-thiazole (53.2 mg, 75% yield) as a yellow oil. 1H NMR (CDCl3, 300 MHz) δ 7.88 (d, J=3.0 Hz, 1H), 7.59–7.53 (m, 1H), 7.42–7.35 (m, 2H), 7.18–7.09 (m, 2H). MS (ESI) 204 (M++H).

reactant | 2-Bromo-1,3-thiazole | 13 mmol, 2.0 g | BrC=1SC=CN1 | C3H2BrNS
reactant | Triethylamine | 42 mmol, 5.8 mL | C(C)N(CC)CC | C6H15N
reactant | 1-ethynyl-2-fluorobenzene | 8.3 mmol, 1.0 g | C(#C)C1=C(C=CC=C1)F | C8H5F
reactant | hexane | CCCCCC | C6H14
solvent | DME | 25 mL | COCCOC | C4H10O2
catalyst | CuI | 1.6 mmol, 316 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.83 mmol, 580 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(2-fluorophenyl)ethynyl]-1,3-thiazole | 700 mg, 41% yield | FC1=C(C=CC=C1)C#CC=1SC=CN1 | C11H6FNS
